US09193728B2
Preparation of 2,9-dimethyl-1,2,3,4,5,6-hexahydroazepino[4,3-b]indole
To a stirred suspension of lithium aluminum hydride (2 g, 52.63 mmol) in dry THF (150 mL) was added portionwise 9-methyl-3,4,5,6-tetrahydroazepino[4,3-b]indole-2(1H)-carbaldehyde (5.9 g, 25.87 mmol) and the reaction mixture stirred at 55° C. for 2 h. The progress of reaction was monitored by TLC. The reaction mixture was quenched with saturated sodium aqueous sulfate solution at 0° C. and then filtered. The filtrate was dried over anhydrous sodium sulfate and evaporated to dryness to afford the title compound (5.2 g). 1H NMR (DMSO) d (ppm): 7.12-7.05 (m, 2H), 6.80-6.6.76 (d, 1H), 3.65 (s, 2H), 2.90-2.80 (m, 4H), 2.34 (s, 3H), 2.26 (s, 3H), 1.80-1.72 (m, 2H).

reactant | lithium aluminum hydride | 52.63 mmol, 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 9-methyl-3,4,5,6-tetrahydroazepino[4,3-b]indole-2(1H)-carbaldehyde | 25.87 mmol, 5.9 g | CC1=CC=2C3=C(NC2C=C1)CCCN(C3)C=O | C14H16N2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2,9-dimethyl-1,2,3,4,5,6-hexahydroazepino[4,3-b]indole | 5.2 g | CN1CC2=C(NC=3C=CC(=CC23)C)CCC1 | C14H18N2
